* INA597 - Rev. A
* Created by Alexander Davis; August 29, 2019
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2019 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt INA597 IN+ IN- VCC VEE OUT SENSE REF
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=650e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
I_OS        ESDn MID 3P
I_B         27 MID 5P
V_GRp       56 MID 251
V_GRn       57 MID -251
V_ISCp      50 MID 65
V_ISCn      51 MID -65
V_ORn       36 VCLP -4
V11         55 35 0
V_ORp       34 VCLP 4
V12         54 33 0
V4          45 OUT 0
VCM_MIN     78 VEE_B -100M
VCM_MAX     79 VCC_B 100M
I_Q         VCC VEE 1.1M
C_COMPn     IN-_AMP OUT 16P 
C_COMPp     VEE IN+_AMP 16P 
C_CMn       ESDn MID 6.4P 
C_DIFF      ESDp ESDn 1.6P 
C_CMp       MID ESDp 6.4P 
RF2b        25 SENSE 180M 
RF4         IN+_AMP REF 6K 
RF3         IN+ IN+_AMP 12K 
RF2a        IN-_AMP 25 6K 
RF1         IN- IN-_AMP 12K 
XVOS_DRIFT_INA597  26 27 VOS_DRIFT_INA597
Xi_nn       ESDn MID FEMT_0_INA597
S5          VEE ESDp VEE ESDp  ESD_SW
S4          VEE ESDn VEE ESDn  ESD_SW
S3          ESDp VCC ESDp VCC  ESD_SW
C29         MID 28 7F 
R69         MID 28 R_NOISELESS 1MEG 
G7          28 MID VSENSE MID  -1U
S2          ESDn VCC ESDn VCC  ESD_SW
C28         29 MID 1N 
R75         30 29 R_NOISELESS 100 
C27         31 MID 1N 
R72         32 31 R_NOISELESS 100 
R49         MID 33 R_NOISELESS 1 
G11         33 MID 34 MID  -1
R48         35 MID R_NOISELESS 1 
G10         35 MID 36 MID  -1
R70         37 MID R_NOISELESS 1 
XVCCS_LIM_ZO 38 MID MID 37 VCCS_LIM_ZO_0_INA597
Xi_np       MID 27 FEMT_0_INA597
Xe_n        ESDp 27 VNSE_0_INA597
C21         CLAMP MID 113N 
R68         MID CLAMP R_NOISELESS 1MEG 
XVCCS_LIM_2 39 MID MID CLAMP VCCS_LIM_2_0_INA597
R44         MID 39 R_NOISELESS 1MEG 
XVCCS_LIM_1 40 41 MID 39 VCCS_LIM_1_0_INA597
R66         38 MID R_NOISELESS 150M 
C26         38 42 10.6P 
R65         38 42 R_NOISELESS 10K 
R71         42 MID R_NOISELESS 1 
G6          42 MID 43 MID  -9.44
C23         44 43 17.7U 
R64         43 MID R_NOISELESS 1.18421K 
R51         43 44 R_NOISELESS 10K 
Rdummy      MID 45 R_NOISELESS 32.5K 
Rx          45 37 R_NOISELESS 325K 
Rdc1        44 MID R_NOISELESS 1 
G4          44 MID CL_CLAMP 45  -90.91
R56         MID 46 R_NOISELESS 320 
C16         46 47 497P 
R57         47 46 R_NOISELESS 100MEG 
G14         47 MID VEE_B MID  -100M
Rsrc2       MID 47 R_NOISELESS 1 
R54         MID 48 R_NOISELESS 320 
C15         48 49 497P 
R55         49 48 R_NOISELESS 100MEG 
G13         49 MID VCC_B MID  100M
Rsrc4       MID 49 R_NOISELESS 1 
XIQp        VIMON MID MID VCC VCCS_LIMIT_IQ_0_INA597
XIQn        MID VIMON VEE MID VCCS_LIMIT_IQ_0_INA597
XCL_AMP     50 51 VIMON MID 52 53 CLAMP_AMP_LO_0_INA597
S8          CLAMP 54 CLAMP 54  OR_SW
S9          55 CLAMP 55 CLAMP  OR_SW
XGR_AMP     56 57 58 MID 59 60 CLAMP_AMP_HI_0_INA597
R39         56 MID R_NOISELESS 1T 
R37         57 MID R_NOISELESS 1G 
R42         VSENSE 58 R_NOISELESS 1M 
C19         58 MID 1F 
R38         59 MID R_NOISELESS 1 
R36         MID 60 R_NOISELESS 1 
R40         59 61 R_NOISELESS 1M 
R41         60 62 R_NOISELESS 1M 
C17         61 MID 1F 
C18         MID 62 1F 
XGR_SRC     61 62 CLAMP MID VCCS_LIM_GR_0_INA597
R21         52 MID R_NOISELESS 1 
R20         MID 53 R_NOISELESS 1 
R29         52 63 R_NOISELESS 1M 
R30         53 64 R_NOISELESS 1M 
C9          63 MID 1F 
C8          MID 64 1F 
XCL_SRC     63 64 CL_CLAMP MID VCCS_LIM_4_0_INA597
R22         50 MID R_NOISELESS 1T 
R19         MID 51 R_NOISELESS 1T 
XCLAWp      VIMON MID 65 VCC_B VCCS_LIM_CLAW+_0_INA597
XCLAWn      MID VIMON VEE_B 66 VCCS_LIM_CLAW-_0_INA597
R12         65 VCC_B R_NOISELESS 1K 
R16         65 67 R_NOISELESS 1M 
R13         VEE_B 66 R_NOISELESS 1K 
R17         68 66 R_NOISELESS 1M 
C6          68 MID 1F 
C5          MID 67 1F 
G2          VCC_CLP MID 67 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 68 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 69 70 CLAMP_AMP_LO_0_INA597
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         69 MID R_NOISELESS 1 
R24         MID 70 R_NOISELESS 1 
R27         69 71 R_NOISELESS 1M 
R28         70 72 R_NOISELESS 1M 
C11         71 MID 1F 
C10         MID 72 1F 
XCLAW_SRC   71 72 CLAW_CLAMP MID VCCS_LIM_3_0_INA597
H2          32 MID V11 -10
H3          30 MID V12 10
C12         SW_OL MID 1P 
R32         73 SW_OL R_NOISELESS 100 
R31         73 MID R_NOISELESS 1 
XOL_SENSE   MID 73 31 29 OL_SENSE_0_INA597
S1          44 43 SW_OL MID  OL_SW
H1          74 MID V4 1K
S7          VEE OUT VEE OUT  ESD_SW
S6          OUT VCC OUT VCC  ESD_SW
R11         MID 75 R_NOISELESS 1T 
R18         75 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1P 
E5          75 MID OUT MID  1
C13         VIMON MID 1P 
R33         74 VIMON R_NOISELESS 100 
R10         MID 74 R_NOISELESS 1T 
R47         76 VCLP R_NOISELESS 100 
C24         VCLP MID 1P 
E4          76 MID CL_CLAMP MID  1
R46         MID CL_CLAMP R_NOISELESS 1K 
G9          CL_CLAMP MID CLAW_CLAMP MID  -1M
R45         MID CLAW_CLAMP R_NOISELESS 1K 
G8          CLAW_CLAMP MID 28 MID  -1M
R43         MID VSENSE R_NOISELESS 1K 
G15         VSENSE MID CLAMP MID  -1M
C4          40 MID 1F 
R9          40 77 R_NOISELESS 1M 
R7          MID 78 R_NOISELESS 1T 
R6          79 MID R_NOISELESS 1T 
R8          MID 77 R_NOISELESS 1 
XVCM_CLAMP  80 MID 77 MID 79 78 VCCS_EXT_LIM_0_INA597
E1          MID 0 81 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          82 VEE_B R_NOISELESS 1M 
C3          82 0 1F 
R60         81 82 R_NOISELESS 1MEG 
C1          81 0 1 
R3          81 0 R_NOISELESS 1T 
R59         83 81 R_NOISELESS 1MEG 
C2          83 0 1F 
R4          VCC_B 83 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R67         84 80 R_NOISELESS 1K 
G1          80 84 48 46  -1M
R2          41 ESDn R_NOISELESS 1M 
R1          84 26 R_NOISELESS 1M 
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN-_AMP ESDn R_NOISELESS 100 
R34         IN+_AMP ESDp R_NOISELESS 100 
.ends
*
*$
.subckt VOS_DRIFT_INA597  VOS+ VOS-
.param DC = 168.41E-6
.param POL = 1
.param DRIFT = 5e-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-25)}
.ends
*
*$
.subckt FEMT_0_INA597  1 2
.param FLWF=1E-3
.param GLFF=231E-6
.param RNVF=2.718
.model DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ends FEMT_0_INA597 
*
*$
.subckt VCCS_LIM_ZO_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 66667
.param IPOS = 2.11E4
.param INEG = -2.11E4
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt VNSE_0_INA597  1 2
.param FLW=0.1
.param GLF=0.225
.param RNV=19
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_0_INA597 
*
*$
.subckt VCCS_LIM_2_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 74.5E-3
.param IPOS = 2.4
.param INEG = -2.4
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt VCCS_LIM_1_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 1E-4
.param IPOS = .5
.param INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt VCCS_LIMIT_IQ_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ends
*
*$
.subckt CLAMP_AMP_LO_0_INA597  VC+ VC- VIN COM VO+ VO-
.param G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
*$
.subckt CLAMP_AMP_HI_0_INA597  VC+ VC- VIN COM VO+ VO-
.param G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*
*$
.subckt VCCS_LIM_GR_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 1
.param IPOS = 4.8
.param INEG = -4.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt VCCS_LIM_4_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 1
.param IPOS = 1.044
.param INEG = -1.044
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt VCCS_LIM_CLAW+_0_INA597  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.7E-4)
+(31.9, 1.41E-3)
+(44.7, 2.13E-3)
+(57.1, 3.04E-3)
+(63.8, 3.76E-3)
+(66.5, 4.23E-3)
+(67.7, 4.54E-3)
+(68.9, 1.77E-2)
.ends
*
*$
.subckt VCCS_LIM_CLAW-_0_INA597  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.9E-4)
+(15.9, 6.9E-4)
+(63.8, 3.18E-3)
+(67.7, 3.54E-3)
+(68.9, 1.8E-2)
.ends
*
*$
.subckt VCCS_LIM_3_0_INA597  VC+ VC- IOUT+ IOUT-
.param GAIN = 1
.param IPOS = 0.522
.param INEG = -0.522
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ends
*
*$
.subckt OL_SENSE_0_INA597  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ends
*
*$
.subckt VCCS_EXT_LIM_0_INA597  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends
*
*$